data/mechanism_extracts/JOC/10.1021_acs.joc.5c00510.json
{"doi": "10.1021_acs.joc.5c00510", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical nitroindolylation bifunctionalization of arylalkenes using NaNO2 as nitro radical source, LiBr as mediator, and indoles to install -NO2 and indolyl groups across styrenes", "mechanism_family": ["radical_anodic", "mediator_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of nitrite (NO2-) to nitro free radical (NO2•), facilitated by Cu(I)/Cu(II) and B(C6F5)3; bromide is also oxidized to Br• which traps the benzylic radical; cathode reduces protons to H2", "key_intermediates": [{"name": "nitro free radical (•NO2)", "smiles": "[N+](=O)[O]", "role": "reactive"}, {"name": "benzylic carbon radical Int I from NO2 addition to styrene", "smiles": null, "role": "reactive"}, {"name": "benzylic carbocation Int II from Cu(II) oxidation of Int I", "smiles": null, "role": "reactive"}, {"name": "bromonitro intermediate 5 (PhC6H4-CH(Br)-CH2NO2)", "smiles": "BrC(c1ccc(-c2ccccc2)cc1)C[N+](=O)[O-]", "role": "reactive"}, {"name": "Cu(I)/Cu(II) redox couple from CuOTf", "smiles": null, "role": "resting_state"}, {"name": "3-nitroindole side product pathway intermediate", "smiles": null, "role": "off_pathway"}, {"name": "nitrostyrene side product (path d, H elimination)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidizes NO2- to •NO2 (mediated by Cu(I)→Cu(II) and B(C6F5)3); •NO2 adds to styrene 1a giving benzylic radical Int I, which Cu(II) further oxidizes to benzylic cation Int II; Br- captures Int II to form bromonitro intermediate 5, which undergoes SN2 by N-methylindole at C3 to deliver 4aa, while the cathode reduces H+ to H2.", "rate_determining_step": "SN2 displacement of bromide in intermediate 5 by C3 of N-methylindole to form the C-C bond", "probe_reagents": [{"name": "step-by-step loading (1a + NaNO2 first, then indole 3a)", "smiles": null, "purpose": "intermediate_trap", "observation": "Product 4aa obtained in 82% yield, supporting stepwise formation of a bromonitro intermediate before indole addition"}, {"name": "independently prepared bromonitro compound 5", "smiles": "BrC(c1ccc(-c2ccccc2)cc1)C[N+](=O)[O-]", "purpose": "stoichiometric_intermediate", "observation": "5 + indole 3a with B(C6F5)3 gave 4aa in 97% yield, confirming 5 as on-cycle intermediate; structure verified by 1H/13C NMR"}, {"name": "NaNO3 additive", "smiles": "[Na+].[O-][N+](=O)=O", "purpose": "redox_probe", "observation": "CV shows strong oxidation peak at 0.62 V for NaNO2+NaNO3 vs 0.64 V for NaNO2 alone, indicating nitrate enhances Faradaic efficiency of nitrite oxidation"}, {"name": "B(C6F5)3", "smiles": "FC1=C(F)C(F)=C(B(C2=C(F)C(F)=C(F)C(F)=C2F)C2=C(F)C(F)=C(F)C(F)=C2F)C(F)=C1F", "purpose": "other", "observation": "Lewis acid promotes nitrite oxidation to •NO2 (synergistic effect seen in CV); 0.5 equiv used in standard conditions"}], "evidence_types_used": ["cyclic_voltammetry", "stoichiometric_intermediate", "isolation_of_intermediate", "intermediate_trap_other", "other"], "evidence_strength": "medium", "notes": "EIS (impedance spectroscopy) data also support the role of NaNO3 in lowering charge-transfer resistance. Two competing side pathways are noted: path b giving 3-nitroindole (direct nitration of indole) and path d giving β-nitrostyrene via H-elimination from Int II; these must be suppressed. No TEMPO/BHT radical trap or KIE experiments were reported; mechanism is supported mainly by CV/EIS, stepwise loading, and isolation of bromonitro intermediate 5."}
